US06020358
2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-5-dimethylaminoisoindoline-1,3-dione was prepared by the procedure of Example 8 from 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine (572 mg, 2.09 mmol) and 4-dimethylaminophthalic anhydride (400 mg, 2.09 mmol) in acetic acid (20 mL). The product was obtained as a yellow solid (200 mg, 21% yield): mp, 161.5-163.50° C.; 1H NMR (DMSO-d6) δ 1.46 (t, J=6.9 Hz, 3H, CH3), 2.79 (s, 3H, CH3), 3.09 (s, 6H, CH3), 3.78-3.85 (m, 1H, CHH), 3.85 (s, 3H, CH3), 4.11 (q, J=7.0 Hz, 2H, CH2), 4.51 (dd, J=9.7, 14.6 Hz, 1H, NCHH), 5.85 (dd, J=5.1, 9.6 Hz, AH, NCH), 6.75-6.84 (m, 2H, Ar), 7.03 (d, J=2.3 Hz, 1H, Ar), 7.10-7.16 (m, 2H, Ar), 7.61 (d, J=8.5 Hz, 1H, Ar), 13C NMR (DMSO-d6) δ 14.65, 40.40, 41.43, 48.83, 55.42, 55.89, 64.38, 105.80, 111.29, 112.43, 114.86, 116.90, 120.38, 125.11, 130.14, 134.27, 148.46, 149.38, 154.44, 168.14, 168.67; Anal Calcd for C22H26NO6S+0.2 H2O: C, 58.70; H, 5.91; N, 6.22. Found: C, 58.70; H, 5.93; N, 5.84.

reactant | 1-(3-ethoxy-4-methoxyphenyl)-2-methylsulfonylethylamine | 2.09 mmol, 572 mg | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N | C12H19NO4S
reactant | 4-dimethylaminophthalic anhydride | 2.09 mmol, 400 mg | CN(C=1C=C2C(C(=O)OC2=O)=CC1)C | C10H9NO3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-[1-(3-Ethoxy-4-methoxyphenyl)-2-methylsulfonylethyl]-5-dimethylaminoisoindoline-1,3-dione | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=C(C=C2C1=O)N(C)C)=O | C22H26N2O6S
